US07838674B2
14.a: 8-Ethoxy-2-(4-methoxy-phenyl)-5,6-dihydro-quinazoline
6-[1-Dimethylamino-meth-(E)-ylidene]-2-ethoxy-cyclohex-2-enone (WO 2004/104007) (1 g; 5 mmol) and 4-methoxybenzamidine (0.92 g; 6.1 mmol) are refluxed in EtOH (20 ml) for 14 hours. The reaction mixture is evaporated to dryness, taken up in CH2Cl2 and purified via chromatography (SiO2; acetone/hexanes 5:95) to yield the title compound as yellow resin. 1H-NMR (400 MHz; DMSO-d6): 8.58 (s, 1H); 8.31 (d, 2H); 7.07 (d, 2H); 5.64 (t, 1H); 3.93 (q, 2H); 3.84 (s, 3H); 2.78 (t, 2H); 2.40 (m, 2H); 1.40 (t, 3H). MS (m/z) ES+: 283 (MH+).

reactant | 6-[1-Dimethylamino-meth-(E)-ylidene]-2-ethoxy-cyclohex-2-enone | 5 mmol, 1 g | CN(\C=C\1/CCC=C(C1=O)OCC)C | C11H17NO2
reactant | 4-methoxybenzamidine | 6.1 mmol, 0.92 g | COC1=CC=C(C(=N)N)C=C1 | C8H10N2O
solvent | EtOH | 20 ml | CCO | C2H6O
product | 8-Ethoxy-2-(4-methoxy-phenyl)-5,6-dihydro-quinazoline | C(C)OC1=CCCC=2C=NC(=NC12)C1=CC=C(C=C1)OC | C17H18N2O2
